Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Iodine
 
Attending: ___
 
Chief Complaint:
clotted L UE AV fistula

 
Major Surgical or Invasive Procedure:
Attempted AV fistula thrombectomy by ___ ___
Tunneled central line placement ___

 
History of Present Illness:
___ y/o man w/ ESRD ___ PKD with non-functioning LUE 
brachicephalic AV fistula who presented for ___ guided 
angiography and thrombectomy.  Unfortunately the clot could not 
be removed, therefore tunneled line placement was placed for 
urgent hemodialysis.  The patient missed dialysis on ___.  
The procedure was completed without complications.  The patient 
states he was told that the clot was unable to be removed, but 
there is no operative report available as of yet.  He missed 
hemodialysis on ___ of this week due to non-functioning 
fistula.  Currently he has mild arm pain in area of fistula.  
Denies F/C, SOB, chest pain, abdominal pain.  He was 
hemodynamically stable upon transfer from the PACU.
.  
ROS: per HPI  

 
Past Medical History:
1.  Polycystic kidney disease.
2.  Hypertension for ___ years.
3.  History of hepatitis C.  Underwent interferon treatment in 
the past.
4.  History of nephrectomy in ___ for stones.
5.  History of bladder stretching in ___ in ___ and ___.
6.  History of parathyroidectomy.

 
Social History:
___
Family History:
mother and three sisters with DM

 
Physical Exam:
VS - 98.6 173/96 73 98% RA FSG 66
GENERAL - NAD, comfortable, appropriate
HEENT - PERRL, EOMI, sclerae anicteric, MM dry, OP clear
NECK - supple, no JVD, no carotid bruits
LUNGS - CTA bilat, no r/rh/wh, resp unlabored
HEART - RRR, no MRG, nl S1-S2
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding
EXTREMITIES - no edema, + peripheral pulses (radials, DPs), 
cannot feel thrill over fistula site, fistula is c/d/i, HD line 
site c/d/i
SKIN - no rashes or lesions
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout

 
Pertinent Results:
Labs upon admission:
.
___ 01:08PM BLOOD WBC-3.9* RBC-3.97* Hgb-13.0* Hct-40.5 
MCV-102* MCH-32.8* MCHC-32.2 RDW-15.2 Plt ___
___ 01:08PM BLOOD Neuts-63.6 ___ Monos-3.9 Eos-2.3 
Baso-0.4
___ 01:08PM BLOOD ___ PTT-30.5 ___
___ 01:08PM BLOOD Glucose-64* UreaN-53* Creat-16.5* Na-141 
K-6.5* Cl-101 HCO3-24 AnGap-23*
___ 01:08PM BLOOD Calcium-10.0 Phos-5.5*# Mg-2.9*
___ 01:20PM BLOOD Glucose-58* K-5.9*
.
Labs upon discharge:
.
___ 07:30AM BLOOD WBC-3.7* RBC-3.49* Hgb-11.7* Hct-35.3* 
MCV-101* MCH-33.5* MCHC-33.1 RDW-15.2 Plt ___
___ 07:30AM BLOOD Glucose-113* UreaN-43* Creat-13.0*# 
Na-142 K-4.7 Cl-100 HCO3-33* AnGap-14
___ 07:30AM BLOOD Calcium-8.5 Phos-4.2 Mg-2.4
.
AV Fistulogram report: ___: pending
 
Brief Hospital Course:
___ y/o man w/ ESRD ___ PKD with non-functioning LUE 
brachicephalic AV fistula who presented for ___ guided 
angiography and thrombectomy, but unfortunately the fistula 
could not be cannulized and the thrombus was unable to be 
removed.  He therefore had a tunneled line placed for 
hemodialysis.  He received 2 sessions of hemodialysis prior to 
discharge ___ and ___.  The transplant surgery office will 
contact the patient for a follow up appointment for surgical 
thrombectomy. 
.
He was continued on his home medications for his chronic medical 
issues including end stage renal disease, depression, 
hypertension, and restless leg syndrome.  
.
He was FULL CODE for this admission.
 
Medications on Admission:
 - vit B 100mg daily
 - folate 1 tab PO daily
 - benadryl 50mg PO TID PRN
 - Hectorol 2.5mcg PO qweek
 - Epogen 4000unit/mL soln with HD
 - gabapentin 300mg PO qHS PRN
 - metoprolol 100mg PO BID
 - Ropinirole 2.5mg PO qHS
 - lisinopril 5mg daily
 - morphine 10mg BID - patient states he receives this at 
prison, however this in not documented in physician notes here 
at ___
 - amitryptyline 25mg BID
 
Discharge Medications:
1. thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. metoprolol tartrate 50 mg Tablet Sig: Two (2) Tablet PO BID 
(2 times a day).  
4. ropinirole 1 mg Tablet Sig: 2.5 Tablets PO HS (at bedtime).  
5. lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

6. gabapentin 300 mg Capsule Sig: One (1) Capsule PO HS PRN () 
as needed for pain.  
7. sevelamer carbonate 800 mg Tablet Sig: One (1) Tablet PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).  
8. amitriptyline 25 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
9. diphenhydramine HCl 25 mg Capsule Sig: Two (2) Capsule PO Q6H 
(every 6 hours) as needed for itching.  
10. Hectorol 2.5 mcg Capsule Sig: One (1) Capsule PO once a 
week.  
11. Epogen 4,000 unit/mL Solution Sig: One (1)  Injection once a 
week: with HD.  

 
Discharge Disposition:
Home with Service
 
Discharge Diagnosis:
AV fistula thrombus
End stage renal disease - due to polycystic kidney disease
Hypertension
Depression
Restless Leg syndrome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came to the hospital because of a clot in your AV fistula.  
The Interventional Radiologists attempted to remove the clot, 
however they were unsuccessful.  You will need to follow up with 
transplant surgery to have the clot removed.  The transplant 
surgery office will call you with a follow up appointment.  You 
had a temporarily central line placed for hemodialysis that will 
remain in place until the fistula is working again.
.
We made NO changes to your medications
.
Please follow up with your physicians.
 
Followup Instructions:
___